US05610293
B. Synthesis of Ethyl 2-aminoeicosanoate Hydrochloride
To a stirred solution of ethyl-N-(diphenylmethylene)-2-aminoeicosanoate prepared as in Example 28A (104 g, 0.200 mol) in a 1:1 mixture (300 ml) of absolute ethanol and THF was added 0.5N hydrochloric acid (1.0 l) at room temperature over 10 min. The resulting solution was stirred for 30 min. Ethanol and THF were removed in vacuo and the aqueous slurry was extracted with CH2Cl2 (4×1 l). The extracts were combined and dried (MgSO4). The solvent was removed in vacuo and the crude product was recrystallized from hexane to give 74.3 g (95% yield) of colorless needles: mp 91°-4° C.; 1H NMR (CDCl3) δ 0.88 (t, J=6.6 Hz, 3 H), 1.26 (m, 33 H), 1.43 (m, 1 H), 1.56 (m, 1 H), 2.03 (quart, J=7.4 Hz, 2 H), 4.03 (m, 1 H), 4.27 (m, 2 H), 8.84 (br s, 3 H).

reactant | ethyl-N-(diphenylmethylene)-2-aminoeicosanoate | C(C)OC(C(CCCCCCCCCCCCCCCCCC)N=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C35H53NO2
reactant | ethanol | 300 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 0.5N, 1.0 l | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | Ethyl 2-aminoeicosanoate Hydrochloride | 74.3 g, 95% yield | Cl.NC(C(=O)OCC)CCCCCCCCCCCCCCCCCC | InChI=1S/C22H45NO2.ClH/c1-3-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-21(23)22(24)25-4-2;/h21H,3-20,23H2,1-2H3;1H
